US07214673B2
11-{(S)-3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-3-methyl-5H-dibenzo[b,e][1,4]diazepine
Combine 3-methyl-5H-dibenzo[b,e][1,4]diazepin-1-ylamine hydrochloride (400.0 mg, 1.54 mmol), (S)-2-[2-(3-Fluoro-phenyl)-ethyl]-piperazine (641.5 mg, 3.08 mmol), N,N-diisopropylethylamine (199.0 mg, 1.54 mmol), DMSO (0.7 ml), and toluene (2.8 ml). Stir and heat the mixture at 110° C. After 64 hours, cool the mixture to ambient temperature and then dilute it with ethyl acetate. Wash the organic layer with 0.1 N NaOH and brine. Dry (sodium sulfate) and concentrate the organic layer to residue. Purify the residue on silica gel using dichloromethane/methanol (90:10) to give 423.2 mg (66%) of a tan foam: mp 81°, dec; mass spectrum (ion spray): m/z 415.2 (M+1).

reactant | 3-methyl-5H-dibenzo[b,e][1,4]diazepin-1-ylamine hydrochloride | 1.54 mmol, 400.0 mg | Cl.CC=1C=C(C2=C(NC3=C(N=C2)C=CC=C3)C1)N
reactant | (S)-2-[2-(3-Fluoro-phenyl)-ethyl]-piperazine | 3.08 mmol, 641.5 mg | FC=1C=C(C=CC1)CC[C@@H]1NCCNC1 | C12H17FN2
reactant | N,N-diisopropylethylamine | 1.54 mmol, 199.0 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMSO | 0.7 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.8 ml | C1(=CC=CC=C1)C | C7H8
product | 11-{(S)-3-[2-(3-Fluoro-phenyl)-ethyl]-piperazin-1-yl}-3-methyl-5H-dibenzo[b,e][1,4]diazepine | 423.2 mg, 66% | FC=1C=C(C=CC1)CC[C@H]1CN(CCN1)C=1C2=C(NC3=C(N1)C=CC=C3)C=C(C=C2)C | C26H27FN4
